US05654331
c) Benzyl 2-(2-methoxyethoxymethoxy)-4-[2-(R)-methoxyphenylacetoxy-2-(5,6,7,8-tetrahydro-5,5,8,8tetramethyl-2-naphthyl)ethoxy]benzoate
10.5 g (18.6 mmol) of allyl 2-(2-methoxyethoxymethoxy)-4-(2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]-benzoate, 3.1 g (18.6 mmol) of (R)-(-)α-methoxyphenylacetic acid and 100 ml of dichloromethane are introduced into a flask. 3.8 g (18.6 mmol) of dicyclohexylcarbodiimide and 2.3 g (18.6 mmol) of 4-dimethylaminopyridine are added successively and the reaction mixture is stirred at room temperature for 4 hours. It is poured into water and extracted with ethyl ether, and the organic phase is separated, dried over magnesium sulphate and evaporated. The two diastereoisomers formed are separated by chromatography on a silica column, eluting with a mixture of hexane/ethyl ether (55:45). After evaporation of the solvents the following are collected:

reactant | allyl 2-(2-methoxyethoxymethoxy)-4-(2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]-benzoate | 18.6 mmol, 10.5 g | COCCOCOC1=C(C(=O)OCC=C)C=CC(=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C30H40O7
reactant | (R)-(-)α-methoxyphenylacetic acid | 18.6 mmol, 3.1 g | CO[C@@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | dicyclohexylcarbodiimide | 18.6 mmol, 3.8 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 18.6 mmol, 2.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | Benzyl 2-(2-methoxyethoxymethoxy)-4-[2-(R)-methoxyphenylacetoxy-2-(5,6,7,8-tetrahydro-5,5,8,8tetramethyl-2-naphthyl)ethoxy]benzoate | COCCOCOC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OC[C@](C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)(OC)OC(CC1=CC=CC=C1)=O | C43H50O9
